* source BPF
X_U5         0 N14003 VCC VEE OUT uA741
R_R17         N306200 N14033 620
R_R20         N14117 OUT  1k  
R_R15         N28037 IN 10k
C_C6         OUT N14033 1u TC=0
R_R21         N14117 0 R_R21 1k  
.model        R_R21 RES R=1 DEV=10%
R_R18         0 N306200 5k
V_V4         IN 0  AC 1
+SIN 0 1 10 0 0 0
V_V5         VCC 0 15v
R_R19         N14117 N14003 220k
V_V6         VEE 0 -15v
R_R16         N14033 N28037 5k
C_C5         N14033 N14003 2u TC=0
