* source EXAMPLE
R_RBIAS         N00078 VDD  20k  
R_RC1         OUT1 VDD  10k  
R_RC2         OUT2 VDD  10k  
R_RS2         0 N00112  1k  
R_RS1         N00061 N00240  1k  
Q_Q1         N00078 N00078 VEE Q2N2222
Q_Q2         N00315 N00078 VEE Q2N2222
Q_Q3         OUT1 N00061 N00315 Q2N2222
Q_Q4         OUT2 N00112 N00315 Q2N2222
V_V2         VDD 0 12V
V_V3         VEE 0 -12V
C_C1         OUT1 OUT2  5p  
V_V1         N00240 0  AC 1
+SIN 0 0.1V 5MEG 0 0 0
