* source OSC
X_U4A         RESET N00041 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         RESET N00112 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00112 N00050 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00050 N00075 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         N00075 N00041 $D_HI $D_HI OUT OUTBAR $G_DPWR $G_DGND 74107
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N00050 N00112  750  
C_C1         N00112 N00075  400pF  
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND RESET IO_STM STIMULUS=RESET
