* source DIODEX
V_V1         N00020 0 DC 5v  
X_D1         0 N00039 PDIODE PARAMS:       BV={Zener_Voltage}       
R_R1         N00020 N00039  1k  
.PARAM  Zener_Voltage=10
