* PSpice Model Editor - Version 10.5.0
*
*$ model description: "awb1n4148"
*b Device model created by analog_uprev for 1n4148 on Mon Feb  5 06:57:23 IST 2001
.subckt awb1n4148 AN CAT
+ params:
+ IC=1.10250E-36
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=1.0E-9
+ RS=0.5
+ N=1.55
+ TT=5.0E-9
+ CJO=1.85E-12
+ VJ=0.65
+ M=0.18
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=120
+ IBV=1.0
D1n4148_0 AN CAT model22 {area} {state} IC={IC}
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n4148
*$ end model description: "awb1n4148"
*
*
*$ model description: "awb1n4148_1"
*b Device model created by analog_uprev for 1n4148_1 on Mon Feb  5 06:57:23 IST 2001
.subckt awb1n4148_1 AN CAT
+ params:
+ IC=1.10250E-36
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=1.0E-9
+ RS=0.5
+ N=1.55
+ TT=5.0E-9
+ CJO=1.85E-12
+ VJ=0.65
+ M=0.18
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=120
+ IBV=1.0
D1n4148_1_0 AN CAT model22 {area} {state} IC={IC}
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n4148_1
*$ end model description: "awb1n4148_1"
*
*
*$ model description: "awbmur5005"
*b Device model created by analog_uprev for mur5005 on Mon Feb  5 06:57:23 IST 2001
.subckt awbmur5005 AN CAT
+ params:
+ IC=1.10250E-36
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=21.480E-9
+ RS=6E-3
+ N=1.2848
+ TT=30E-9
+ CJO=260.5E-12
+ VJ=0.5
+ M=0.1538
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=75
+ IBV=1.0
Dmur5005_0 AN CAT model22 {area} {state} IC={IC}
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmur5005
*$ end model description: "awbmur5005"
*
*
*$ model description: "awb2n2222"
*b Device model created by analog_uprev for 2n2222 on Fri Feb  2 18:03:16 IST 2001
.subckt awb2n2222 C B E
+ params:
+ IC_VBE=1.10250E-36
+ IC_VCE=1.10250E-36
+ STATE=1
+ TEMP=0
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=166.78E-15
+ BF=150
+ NF=1.074
+ VAF=78
+ IKF=0.5
+ ISE=3.92E-12
+ NE=1.776
+ BR=2.394
+ NR=1.074
+ VAR=500
+ ISC=0.0
+ NC=1.0
+ RB=29.324
+ RBM=0.676
+ RE=0.1
+ RC=2.346
+ CJE=6.75E-12
+ VJE=1.333
+ MJE=0.522
+ TF=181.6E-12
+ XTF=13.24
+ VTF=4.83
+ ITF=216.3E-3
+ PTF=0.0
+ CJC=9.63E-12
+ VJC=1.333
+ MJC=0.518
+ XCJC=0.5
+ TR=32.5E-9
+ CJS=0
+ VJS=0.7
+ MJS=0.5
+ XTB=2.34
+ EG=1.11
+ XTI=3.0
+ KF=0
+ AF=1
+ FC=0.5
Q2n2222_0 C B E model4 {area} {STATE} ic= {UIC(ic_vbe)}, {UIC(ic_vce)} 
.model model4 npn
+  is={IS}
+  bf={BF}
+  nf={NF}
+  vaf={VAF}
+  ikf={IKF}
+  ise={ISE}
+  ne={NE}
+  br={BR}
+  nr={NR}
+  var={VAR}
+  isc={ISC}
+  nc={NC}
+  rb={RB}
+  rbm={RBM}
+  re={RE}
+  rc={RC}
+  cje={CJE}
+  vje={VJE}
+  mje={MJE}
+  tf={TF}
+  xtf={XTF}
+  vtf={VTF}
+  itf={ITF}
+  ptf={PTF}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  xcjc={XCJC}
+  tr={TR}
+  cjs={CJS}
+  vjs={VJS}
+  mjs={MJS}
+  xtb={XTB}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n2222
*$ end model description: "awb2n2222"
*
*
*$ model description: "awb2n5058"
*b Device model created by analog_uprev for 2n5058 on Fri Feb  2 18:03:16 IST 2001
.subckt awb2n5058 C B E
+ params:
+ IC_VBE=1.10250E-36
+ IC_VCE=1.10250E-36
+ STATE=1
+ TEMP=0
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10.0E-15
+ BF=65
+ NF=1
+ VAF=65
+ IKF=371E-3
+ ISE=29.40E-12
+ NE=2.1335
+ BR=1
+ NR=1
+ VAR=50
+ IKR=80E-3
+ ISC=0
+ NC=2
+ RB=4.0
+ RBM=4
+ RE=0.01
+ RC=0.42
+ CJE=63.34E-12
+ VJE=0.55
+ MJE=0.3546
+ TF=1.2E-9
+ XTF=5
+ VTF=10
+ ITF=0.7
+ PTF=0.0
+ CJC=12.46E-12
+ VJC=0.55
+ MJC=0.2977
+ XCJC=0.5
+ TR=77.3E-9
+ CJS=0
+ VJS=0.7
+ MJS=0.5
+ XTB=1.5815
+ EG=1.11
+ XTI=3.0
+ KF=0
+ AF=1
+ FC=0.5
Q2n5058_0 C B E model4 {area} {STATE} ic= {UIC(ic_vbe)}, {UIC(ic_vce)} 
.model model4 npn
+  is={IS}
+  bf={BF}
+  nf={NF}
+  vaf={VAF}
+  ikf={IKF}
+  ise={ISE}
+  ne={NE}
+  br={BR}
+  nr={NR}
+  var={VAR}
+  ikr={IKR}
+  isc={ISC}
+  nc={NC}
+  rb={RB}
+  rbm={RBM}
+  re={RE}
+  rc={RC}
+  cje={CJE}
+  vje={VJE}
+  mje={MJE}
+  tf={TF}
+  xtf={XTF}
+  vtf={VTF}
+  itf={ITF}
+  ptf={PTF}
+  cjc={CJC}
+  vjc={VJC}
+  mjc={MJC}
+  xcjc={XCJC}
+  tr={TR}
+  cjs={CJS}
+  vjs={VJS}
+  mjs={MJS}
+  xtb={XTB}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5058
*$ end model description: "awb2n5058"
*
*
*$
*a Device model created by analog_uprev for bft93 on Thu Feb  8 17:47:28 IST 2001
.subckt awbbft93   200 100 300
LBI 1 10 0.85nH
*LCI 2 20 0nH
LEI 3 30 0.69nH
CCB 10 20 84fF
CCE 20 30 165fF
CBE 30 10 73fF
LBO 10 100 0.51nH
LCO 20 200 0.49nH
LEO 30 300 0.61nH
Q1 20 1 3 M1BFT93
.MODEL M1BFT93 PNP
+   ISE=1.6295e-14 IKR=0.012081 BF=80 FC=0.54298 VAR=9.5149
+   CJC=2.6904e-12 NC=1.038 CJE=2.0636e-14 NE=1.3702 NF=1.0313
+   BR=16.116 RB=3.2133 RC=1.1393 RE=1.9597 MJC=0.5401
+   TF=5.4303e-11 MJE=0.68352 IRB=0.00046855 NR=1.2907 CJS=0
+   RBM=2.0822 ITF=0.0030573 VJC=1.0282 VJE=0.84456 TR=3.4233e-10
+   XCJC=0.075977 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.19311 XTF=0.27447 VJS=0.75 XTI=3 IKF=0.47497
+   IS=1.0366e-15 VAF=8.4866 ISC=9.4971e-17 
.ends
*
*
*$
*a Device model created by analog_uprev for bfg194 on Thu Feb  8 17:47:28 IST 2001
.subckt awbbfg194   200 100 300
LBI 1 10 0.94nH
LCI 2 20 0.92nH
LEI 3 30 0.88nH
CCB 10 20 10fF
CCE 20 30 338fF
CBE 30 10 200fF
CB 1 3 67fF
CC 2 3 176fF
LBO 10 100 0.95nH
LCO 20 200 0.33nH
LEO 30 300 0.05nH
Q1 2 1 3 M1BFG194
.MODEL M1BFG194 PNP
+   ISE=2.1629e-14 IKR=0.012843 BF=111.78 FC=0.90755 VAR=1.7871
+   CJC=3.5856e-12 NC=1.6 CJE=1.7699e-14 NE=0.841 NF=0.66503
+   BR=92.296 RB=4.1356 RC=0.10833 RE=0.15908 MJC=0.40003
+   TF=5.311e-11 MJE=0.48212 IRB=6.1674e-05 NR=0.43618 CJS=0
+   RBM=0.75304 ITF=0.010453 VJC=0.71631 VJE=0.84843 TR=9.7481e-10
+   XCJC=0.063742 PTF=0 MJS=0 EG=1.11 XTB=0
+   VTF=0.10323 XTF=0.65766 VJS=0.75 XTI=3 IKF=0.84785
+   IS=4.574e-15 VAF=9.1007 ISC=7.8447e-18 
.ends
*
*
*$ model description: "awb3sk136"
*b Device model created by analog_uprev for 3sk136 on Wed Mar 28 17:51:02 IST 2001
.subckt awb3sk136 D G S S
+ params:
+ IC_VDS=1.10250E-36
+ IC_VGS=1.10250E-36
+ STATE=1
+ TEMP=0
+ L=1
+ STATE_FACTOR=0
+ LEVEL=1
+ VTO=-0.7462
+ KP=0.0162
+ GAMMA=0.0
+ PHI=.6
+ LAMBDA=56.83E-3
+ RD=0.0
+ RS=88
+ CBD=7.88E-12
+ PB=0.8
+ CGSO=4.97E-12
+ CGDO=0.03E-12
M3sk136_0 D G S S model14  L=.0099 W=1 ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model14 nmos 
+  level={LEVEL}
+  vto={VTO}
+  kp={KP}
+  gamma={GAMMA}
+  phi={PHI}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cbd={CBD}
+  pb={PB}
+  cgso={CGSO}
+  cgdo={CGDO}
+ 
.ends  awb3sk136
*$ end model description: "awb3sk136"
*
*
*$ model description: "awbvn2222"
*b Device model created by analog_uprev for vn2222 on Mon Jun 11 16:58:11 IST 2001
.subckt awbvn2222 D G S SUB
+ params:
+ IC_VBS=1.10250E-36
+ IC_VDS=1.10250E-36
+ IC_VGS=1.10250E-36
+ STATE=1
+ TEMP=0
+ L=10u
+ STATE_FACTOR=0
+ LEVEL=2
+ VTO=2.600
+ KP=0.12
+ GAMMA=0.0
+ PHI=.7
+ LAMBDA=1.0E-3
+ RD=0.0
+ RS=1
+ CBD=100E-12
+ PB=1.0
+ CGSO=55.0E-7
+ CGDO=5E-7
Mvn2222_0 D G S SUB model14  L={L} W=10u ic= {UIC(ic_vbs)}, {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model14 nmos 
+  level={LEVEL}
+  vto={VTO}
+  kp={KP}
+  gamma={GAMMA}
+  phi={PHI}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cbd={CBD}
+  pb={PB}
+  cgso={CGSO}
+  cgdo={CGDO}
+ 
.ends  awbvn2222
*$ end model description: "awbvn2222"
*
*
*$ model description: "awbirf9140"
*a Device model created by analog_uprev for irf9140 on Thu Apr  5 12:09:10 IST 2001
.subckt awbirf9140   1 2 3
* SYMMETRY POWER MOS MODEL (VERSION 1.0)
* EXTERNAL NODE DESIGNATIONS
* NODE 1 -> DRAIN
* NODE 2 -> GATE
* NODE 3 -> SOURCE
M1 9 7 8 8 MM L=100U W=100U
* DEFAULT VALUES USED IN MM:
* THE VOLTAGE-DEPENDENT CAPACITANCES ARE
* NOT INCLUDED. OTHER DEFAULT VALUES ARE:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1E-32
+VTO=-3.38699 LAMBDA=0 KP=5.82448
+CGSO=8.99927E-06 CGDO=1E-11
RS 8 3 0.0643947
D1 1 3 MD
.MODEL MD D IS=7.15729E-12 RS=0.0112106 N=1.05603 BV=102
+IBV=0.00025 EG=1.19985 XTI=1 TT=9.79238E-05
+CJO=7.58068E-10 VJ=3.03804 M=0.3854 FC=0.500967
RDS 3 1 1E+06
RD 9 1 0.060689
RG 2 7 2.74519
D2 5 4 MD1
* DEFAULT VALUES USED IN MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=INFINITE IBV=1MA
.MODEL MD1 D IS=1E-32 N=50
+CJO=1.31416E-09 VJ=1.97893 M=0.662324 FC=1E-08
D3 5 0 MD2
* DEFAULT VALUES USED IN MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=INFINITE IBV=1MA
.MODEL MD2 D IS=1E-10 N=0.40279 RS=3E-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.04882E-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* DEFAULT VALUES USED IN MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=INFINITE IBV=1MA
.MODEL MD3 D IS=1E-10 N=0.40279
.ends
*$ end model description: "awbirf9140"
*
*


